US06387919B1
A solution of 3.16 g (30.6 mmol) of 3-amino-2,2-dimethylpropanol in 10 mL of CH2Cl2 was added at once to a solution of 2.40 g (10.2 mmol) of 4-nitrophenylmethanesulphonyl chloride (Lee, et al., Journal of the American Chemical Society 1987, 109, 7472-7; Macor, et al., Tetrahedron Letters 1992, 33, 8011-4) in 40 mL of CH2Cl2. The mixture was stirred at rt for 15 min, the solvent was removed in vacuo and the residue was redissolved in 50 mL of EtOAc. The solution was washed with three 50-mL portions of 1.0 N HCl and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (hexane/EtOAc 1:1) afforded N-(3-hydroxy-2,2-dimethyl-propyl)-(4-nitrophenyl)-methanesulfonamide as a white solid (0.84 g, 27%): 1H NMR (DMSO-d6): δ 0.74 (s, 6H), 2.78 (d, J=6.4 Hz, 2H), 3.11 (d, J=5.3 Hz, 2H), 4.47 (t, J=5.3 Hz, 1H), 4.52 (s, 2H), 7.02 (t, J=6.4 Hz, 1H), 7.65 (d, J=8.8 Hz, 2H), 8.25 (d, J=8.8 Hz, 2H); APCI−MS: m/z 301 (M−H)−. A mixture of 0.66 g (2.2 mmol) of N-(3-hydroxy-2,2-dimethyl-propyl)-(4-nitro-phenyl)-methanesulfonamide and ˜0.06 g Pd/C 10% in 50 mL of MeOH was shaken on a Parr hydrogenator for 3.5 h. The catalyst was removed via filtration, and 0.273 mL (3.28 mmol) of conc. HCl was added. The solvent was removed in vacuo, and the solid residue was redissolved in 20 mL of EtOH and added to 0.486 g (1.98 mmol) of 8-dimethylaminomethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one. The mixture was heated to reflux for 4.5 h and cooled to ambient temperature. The solid was collected by vacuum filtration, washed with water, and dried in a vacuum oven at 70° C. to afford the title compound as a yellow solid (0.66 g, 70%): mp 229-230° C. (dec); 1H NMR (DMSO-d6): δ 0.74 (s, 6H), 2.73 (d, J=6.4 Hz, 2H), 3.08 (d, J=5.3 Hz, 2H), 4.27 (s, 2H), 4.43 (t, J=5.3 Hz, 1H), 6.84 (t, J=6.4 Hz, 1H), 7.09 (d, J=8.3 Hz, 1H), 7.37 (d, J=8.5 Hz, 2H), 7.42 (d, J=8.5 Hz, 2H), 7.77 (d, J=8.3 Hz, 1H), 8.03 (d, J=12.3 Hz, 1H), 9.24 (s,1 H), 10.84 (s, 1H), 11.04 (d, J=12.3 Hz, 1H); ESI−MS: m/z 471 (M−H)−. Anal. Calcd for C22H24N4O4S2.0.5 H2O: C, 54.87; H, 5.23; N, 11.63; S, 13.32. Found: C, 54.90; H, 5.26; N, 11.68; S, 13.25.

reactant | 3-amino-2,2-dimethylpropanol | 30.6 mmol, 3.16 g | NCC(CO)(C)C | C5H13NO
reactant | 4-nitrophenylmethanesulphonyl chloride | 10.2 mmol, 2.40 g | [N+](=O)([O-])C1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6ClNO4S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | N-(3-hydroxy-2,2-dimethyl-propyl)-(4-nitrophenyl)-methanesulfonamide | 0.84 g, 27% | OCC(CNS(=O)(=O)CC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C12H18N2O5S
